US07576215B2
4-({3-[3-PHENYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)BENZOIC ACID
The title compound was prepared from [3-(3-Phenyl-8-trifluoromethyl-quinolin-4-yl)-phenol and 4-Bromomethyl-benzoic acid following the procedure of Example 1: mp 108-112° C.; MS m/z 500; HRMS: calcd for C30H20F3NO3+H+, 500.14680; found (ESI, [M+H]+), 500.1461.

reactant | 3-(3-Phenyl-8-trifluoromethyl-quinolin-4-yl)-phenol | C1(=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C22H14F3NO
reactant | 4-Bromomethyl-benzoic acid | BrCC1=CC=C(C(=O)O)C=C1 | C8H7BrO2
product | 4-({3-[3-PHENYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)BENZOIC ACID | C1(=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(OCC2=CC=C(C(=O)O)C=C2)C=CC1)C(F)(F)F | C30H20F3NO3
